US05183894
A mixture of 2-chloronitrobenzene (47.2 g, 0.300 mole) and ethyl cyanoacetate (40 ml, 0.38 mol) in N,N-dimethylacetamide (DMA, 250 ml) was treated at once with potassium hydroxide pellets (120 g, 2.14 mole). The mixture was mechanically stirred and heated for ten minutes at 110°-120° C. (caution: minimal heat application may be needed, exothermic reaction) then poured into ice-cold dilute hydrochloric acid. Ether extractive workup gave an oil. The oil was passed through silica gel eluting with toluene to provide a yellow oil, which was dissolved in 100 ml methanol then chilled. The solid was filtered to afford ethyl cyano-2-nitrophenylacetate as a yellow solid (51.4 g, 73.2%) mp 57°-61° C. (literature 59°-60° C.).

reactant | 2-chloronitrobenzene | 0.300 mole, 47.2 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | ethyl cyanoacetate | 0.38 mol, 40 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | Ether | CCOCC | C4H10O
solvent | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
solvent | methanol | 100 ml | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl cyano-2-nitrophenylacetate | 51.4 g, 73.2% | C(#N)C(C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-] | C11H10N2O4
